US04769366
To a stirred suspension of 3-[4-(4-ethoxycarbonyl benzyl)-1-piperazinyl]-1-phenyl-7H-pyrrolo[1,2-a]azepin-7-one (1.2 g), prepared as described in Example 20, and ethyl alcohol (30 cc) under an atmosphere of nitrogen, a solution of potassium hydroxide (0.2 g) in distilled water (3 cc) is added at a temperature of about 20° C. in the course of 5 minutes. The reaction mixture is then heated to 60° C. for 4 hours. After the solution is cooled, 1N aqueous potassium hydroxide solution (10 cc) is added and the mixture is washed 3 times with methylene chloride (150 cc in total). The organic phases are combined, dried over anhydrous magnesium sulphate, filtered and evaporated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. The residue is dissolved in methylene chloride (5 cc) and the solution is poured into silica (40 g) contained in a column 1 cm in diameter. Elution is first performed with a mixture of cyclohexane and ethyl acetate (50:50 by volume) (2.5 liters and the corresponding eluate is rejected. Elution is then performed with methanol (1 liter and the corresponding eluate is evaporated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. After recrystallization in 2-methyl-2-butanol, 3-[4-(4-carboxybenzyl)-1-piperazinyl]-1-phenyl-7H-pyrrolo[1,2-a]azepin-7-one (0.6 g) is obtained in the form of its potassium salt.

reactant | 3-[4-(4-ethoxycarbonyl benzyl)-1-piperazinyl]-1-phenyl-7H-pyrrolo[1,2-a]azepin-7-one | 1.2 g | C(C)OC(=O)C1=CC=C(CN2CCN(CC2)C2=CC(=C3N2C=CC(C=C3)=O)C3=CC=CC=C3)C=C1 | C29H29N3O3
reactant | ethyl alcohol | 30 cc | C(C)O | C2H6O
reactant | potassium hydroxide | 0.2 g | [OH-].[K+]
reactant | potassium hydroxide | 1N, 10 cc | [OH-].[K+]
solvent | water | 3 cc | O | H2O
product | 3-[4-(4-carboxybenzyl)-1-piperazinyl]-1-phenyl-7H-pyrrolo[1,2-a]azepin-7-one | 0.6 g | C(=O)(O)C1=CC=C(CN2CCN(CC2)C2=CC(=C3N2C=CC(C=C3)=O)C3=CC=CC=C3)C=C1 | C27H25N3O3
